US04618683
6-Bromo-2-ethyl-3a,4,5,9b-tetrahydro-9-methoxy-1H-benz[e]isoindole-1,3-(2H)-dione
Using the procedure of example 64, but starting with 6-bromo-3a,4,5,9b-tetrahydro-9-methoxy-1H-benz[e]isoindole-1,3-(2H)-dione and ethyl iodide instead of methyl iodide afforded the desired compound; M+ 337; mp 170°-4°.

reactant | 6-bromo-3a,4,5,9b-tetrahydro-9-methoxy-1H-benz[e]isoindole-1,3-(2H)-dione | BrC1=CC=C(C=2C3C(NC(C3CCC21)=O)=O)OC | C13H12BrNO3
reactant | ethyl iodide | C(C)I | C2H5I
product | 6-Bromo-2-ethyl-3a,4,5,9b-tetrahydro-9-methoxy-1H-benz[e]isoindole-1,3-(2H)-dione | BrC1=CC=C(C=2C3C(N(C(C3CCC21)=O)CC)=O)OC | C15H16BrNO3
